### PR TITLE
Add Erdős Problem 841 (square products from short intervals), link the formal proof

### LINKED ISSUE #6413: Erdős Problem 841
### What is the Erdős problem?

https://www.erdosproblems.com/841

Let $t_n$ be minimal such that $\{n+1,\ldots,n+t_n\}$ contains a subset whose product with $n$ is a square number (and let $t_n=0$ if $n$ is itself square). Estimate $t_n$.

Status: solved (Selfridge; Bui–Pratt–Zaharescu [BPZ24]). A formal proof of the BPZ distribution theorem, Selfridge's estimates, the $x^{1-o(1)}$ family of small values and the pointwise lower bound exists in plby/lean-proofs (`Erdos841.erdos_841`, Codex).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6413.

### What changed
Adds `FormalConjectures/ErdosProblems/841.lean` with `t n` (least `T` such that some subset of `{n+1, …, n+T}` has square product with `n`) and, using `Nat.maxPrimeFac` for `P(n)`:
- `erdos_841` (`research solved`): the Bui–Pratt–Zaharescu distribution theorem, `|{n ≤ x : t_n ≤ n^c}| - |{n ≤ x : P(n) ≤ n^c}| = o(x)` for `c ∈ (0, 1]`.
- `variants.selfridge_large_prime`: `t_n = P(n)` when `P(n) > √(2n) + 1`.
- `variants.selfridge_sqrt`: `t_n ≤ C √n` otherwise.
- `variants.many_small_values`: `x^{1-o(1)}` many `n ≤ x` with `t_n ≤ exp(K √(log n log log n))`.
- `variants.lower_bound`: `t_n ≫ (log log n)^{6/5} (log log log n)^{-1/5}` for non-square `n`.

All linked to plby/lean-proofs (Codex; 36 Mathlib-only files, reusing the PNT+ port from `Erdos49/`).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos841.erdos_841` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (`t` agrees with plby's `Nat.find` definition, `Nat.maxPrimeFac n` agrees with plby's `largestPrimeFactor n` for `n ≥ 1`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real Topology

namespace Bridge841

lemma t_eq (n : ℕ) : Erdos841.t n = Erdos841Plby.t n := by
  apply le_antisymm
  · exact Nat.sInf_le (Erdos841Plby.t_spec n)
  · have hmem : Erdos841.t n ∈ {T | ∃ J ⊆ Finset.Icc 1 T, IsSquare (n * ∏ j ∈ J, (n + j))} :=
      Nat.sInf_mem ⟨_, Erdos841Plby.t_spec n⟩
    exact Erdos841Plby.t_le_of_admissible hmem

lemma maxPrimeFac_eq {n : ℕ} (hn : 1 ≤ n) :
    n.maxPrimeFac = Erdos841Plby.largestPrimeFactor n := by
  rcases hn.lt_or_eq with hn | rfl
  · apply le_antisymm
    · exact Erdos841Plby.prime_le_largestPrimeFactor hn (Nat.prime_maxPrimeFac_of_one_lt n hn)
        Nat.maxPrimeFac_dvd
    · exact Nat.le_maxPrimeFac (by omega) (Erdos841Plby.largestPrimeFactor_prime hn)
        (Erdos841Plby.largestPrimeFactor_dvd hn)
  · simp [Erdos841Plby.largestPrimeFactor, Nat.maxPrimeFac_one]

lemma smallT_eq (x : ℕ) (c : ℝ) [DecidablePred fun n : ℕ ↦ (Erdos841.t n : ℝ) ≤ (n : ℝ) ^ c] :
    ((Finset.Icc 1 x).filter fun n : ℕ ↦ (Erdos841.t n : ℝ) ≤ (n : ℝ) ^ c) =
      Erdos841Plby.movingSmallTUpTo x c := by
  unfold Erdos841Plby.movingSmallTUpTo Erdos841Plby.powerThreshold
  ext n
  simp only [Finset.mem_filter, Nat.le_floor_iff (Real.rpow_nonneg (Nat.cast_nonneg n) c), t_eq]

lemma smooth_eq (x : ℕ) (c : ℝ)
    [DecidablePred fun n : ℕ ↦ (n.maxPrimeFac : ℝ) ≤ (n : ℝ) ^ c] :
    ((Finset.Icc 1 x).filter fun n : ℕ ↦ (n.maxPrimeFac : ℝ) ≤ (n : ℝ) ^ c) =
      Erdos841Plby.movingSmoothUpTo x c := by
  unfold Erdos841Plby.movingSmoothUpTo Erdos841Plby.powerThreshold
  ext n
  simp only [Finset.mem_filter, Nat.le_floor_iff (Real.rpow_nonneg (Nat.cast_nonneg n) c),
    Finset.mem_Icc]
  constructor
  · rintro ⟨⟨h1, h2⟩, h⟩
    exact ⟨⟨h1, h2⟩, by rwa [← maxPrimeFac_eq h1]⟩
  · rintro ⟨⟨h1, h2⟩, h⟩
    exact ⟨⟨h1, h2⟩, by rwa [maxPrimeFac_eq h1]⟩

theorem erdos_841 (c : ℝ) (hc : c ∈ Set.Ioc 0 1) :
    Tendsto (fun x : ℕ ↦
      ((((Finset.Icc 1 x).filter fun n : ℕ ↦ (Erdos841.t n : ℝ) ≤ (n : ℝ) ^ c).card : ℝ) -
        ((Finset.Icc 1 x).filter fun n : ℕ ↦ (n.maxPrimeFac : ℝ) ≤ (n : ℝ) ^ c).card) / x)
      atTop (𝓝 0) := by
  classical
  simp only [smallT_eq, smooth_eq]
  exact Erdos841Plby.erdos841_distributional_resolution c hc.1 hc.2

theorem selfridge_large_prime (n : ℕ) (hn : 1 < n)
    (h : √(2 * n) + 1 < (n.maxPrimeFac : ℝ)) : Erdos841.t n = n.maxPrimeFac := by
  rw [t_eq, maxPrimeFac_eq hn.le] at *
  exact Erdos841Plby.erdos_841.1 n hn h

theorem selfridge_sqrt :
    ∃ C : ℝ, ∀ n : ℕ, (n.maxPrimeFac : ℝ) ≤ √(2 * n) + 1 → (Erdos841.t n : ℝ) ≤ C * √n := by
  refine ⟨40, fun n h => ?_⟩
  rw [t_eq]
  rcases Nat.eq_zero_or_pos n with rfl | hn
  · rw [(Erdos841Plby.t_eq_zero_iff 0).2 IsSquare.zero]
    simp
  · rw [maxPrimeFac_eq hn] at h
    exact Erdos841Plby.erdos841_selfridge_sqrt_bound_all h

theorem many_small_values : ∃ K : ℝ,
    Tendsto (fun x : ℕ ↦
      log (((Finset.Icc 1 x).filter fun n ↦
        (Erdos841.t n : ℝ) ≤ exp (K * √(log n * log (log n)))).card : ℝ) / log x)
      atTop (𝓝 1) := by
  classical
  obtain ⟨h1, h2⟩ := Erdos841Plby.erdos841_many_small_values_global
  refine ⟨20, ?_⟩
  have : ∀ x : ℕ, ((Finset.Icc 1 x).filter fun n ↦
      (Erdos841.t n : ℝ) ≤ exp (20 * √(log n * log (log n)))) =
        Erdos841Plby.manySmallUpTo x := by
    intro x
    ext n
    simp only [Finset.mem_filter, Finset.mem_Icc, h2, t_eq, and_assoc]
  simpa only [this] using h1

theorem lower_bound : ∃ C : ℝ, 0 < C ∧
    ∀ᶠ n : ℕ in atTop, ¬ IsSquare n →
      C * (log (log n) ^ ((6 : ℝ) / 5) * log (log (log n)) ^ (-(1 : ℝ) / 5)) ≤ Erdos841.t n := by
  obtain ⟨C, hC, h⟩ := Erdos841Plby.erdos_841.2.2.2.2
  refine ⟨C, hC, ?_⟩
  filter_upwards [h] with n hn hsq
  rw [t_eq, neg_div]
  exact hn hsq

end Bridge841
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«841»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/841.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/841.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
